US07485637B2
6b: [4-(4-Methanesulfonyl-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-(2-morpholin-4-yl-5-nitro-phenyl)-methanone
According to the procedure described for the synthesis of example 4, step f, the title compound has been synthesized from 2-Morpholin-4-yl-5-nitro-benzoic acid and 4-(4-Methanesulfonyl-phenyl)-1,2,3,6-tetrahydro-pyridine. MS (m/e): 470.1 (M−H, 100%)

reactant | 2-Morpholin-4-yl-5-nitro-benzoic acid | N1(CCOCC1)C1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C11H12N2O5
reactant | 4-(4-Methanesulfonyl-phenyl)-1,2,3,6-tetrahydro-pyridine | CS(=O)(=O)C1=CC=C(C=C1)C=1CCNCC1 | C12H15NO2S
product | [4-(4-Methanesulfonyl-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-(2-morpholin-4-yl-5-nitro-phenyl)-methanone | CS(=O)(=O)C1=CC=C(C=C1)C=1CCN(CC1)C(=O)C1=C(C=CC(=C1)[N+](=O)[O-])N1CCOCC1 | C23H25N3O6S
